US04230715
4-Amino-5-mercapto-4H-1,2,4-triazole-3-methanol
A mixture of 10.6 g (0.1 mole) of thiocarbohydrazide and 25.0 g (0.33 mole) of hydroxyacetic acid are heated and stirred at 130° C. for 20 minutes. The mixture is cooled to room temperature and diluted with 25 ml of water. It is then cooled for 24 hours at 11° C., yielding 7.0 g of crystals. The latter are recrystallized from chloroform/methanol, affording 4.5 g of solvated product. The product is dried in vacuo, affording 2.0 g of pale yellow crystals of 4-amino-5-mercapto-4H-1,2,4-triazole-3-methanol. m.p. 150.5°-151.5° C. When the reaction is repeated, using a longer heating time, (1 hour at 125° C.), and is followed by recrystallization from methanol/water, a higher yield of the same product is obtained (80%).

reactant | thiocarbohydrazide | 0.1 mole, 10.6 g | NNC(=S)NN | CH6N4S
reactant | hydroxyacetic acid | 0.33 mole, 25.0 g | OCC(=O)O | C2H4O3
solvent | water | 25 ml | O | H2O
product | 4-Amino-5-mercapto-4H-1,2,4-triazole-3-methanol | 7.0 g | NN1C(=NN=C1S)CO | C3H6N4OS
